US07576122B2
Step B. 2,2-Dimethyl-1-(3-methyl-1-benzothien-2-yl)propan-1-one
The title compound was prepared from 1-(2-mercaptophenyl)ethanone and 1-bromopinacolone using the procedure in Step B Examples 36˜49. 1H NMR (CDCl3, 500 MHz) 7.82˜7.88 (m, 2H), 7.44˜7.50 (m, 2H), 2.60 (s, 3H), 1.41 (s, 9H). LC-MS: 4.06 min. (m/Z=233.4, 191).

reactant | 1-(2-mercaptophenyl)ethanone | SC1=C(C=CC=C1)C(C)=O | C8H8OS
reactant | 1-bromopinacolone | BrCC(C(C)(C)C)=O | C6H11BrO
product | 2,2-Dimethyl-1-(3-methyl-1-benzothien-2-yl)propan-1-one | CC(C(=O)C=1SC2=C(C1C)C=CC=C2)(C)C | C14H16OS
